US05189224
Synthesis of 4-bromo-6-methylsulfonyl-m-xylene
6 g of common salt was added to 25 ml of 1,2-dichloroethane (EDC), and 40 g of chlorosulfonic acid was added dropwise thereto at room temperature under stirring and 20 ml of EDC was further added thereto. To the resultant mixture, was dropwise added 18.5 g (0.1 mol) of 4-bromo-m-xylene at room temperature over one hour period. After dropwise added, the resultant mixture was stirred continuously for 30 minutes, and was then heated to 70° C., and was stirred continuously for one hour, and was thereafter standed to cool to room temperature. After dropping the resultant reaction liquor to 65 ml of water, the mixture was stirred for 30 minutes and EDC layer was taken out. To a solution having 17 g of sodium carbonate and 13 g of sodium sulfite dissolved in 85 ml of water, was dropwise added the EDC layer thus obtained at 65° C. over one hour period, and the resultant mixture was stirred at the same temperature for 4 hours to take the aqueous layer out. 14.2 g of methyl iodide was added dropwise to the aqueous layer thus obtained, and the resultant mixture was heated to 65° C. to react for 4 hours.

reactant | chlorosulfonic acid | 40 g | ClS(=O)(=O)O | ClHO3S
reactant | 4-bromo-m-xylene | 0.1 mol, 18.5 g | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | sodium carbonate | 17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium sulfite | 13 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl iodide | 14.2 g | CI | CH3I
solvent | water | 85 ml | O | H2O
solvent | water | 65 ml | O | H2O
solvent | EDC
solvent | EDC | 20 ml
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 4-bromo-6-methylsulfonyl-m-xylene | BrC1=C(C=C(C(=C1)S(=O)(=O)C)C)C | C9H11BrO2S
